US07119200B2
Isonipecotamide (10 g, 78.0 mmoles) was dissolved in distilled water (100 mL) and 37% aqueous formaldehyde (7.6 mL, equivalent to 2.81 g HCHO, 93.6 mmoles) was added. Wet 10% Pd—C (8 spoon spatulas) was added under argon and the mixture was hydrogenated at 25° C. and 50 psi for 43 h. The catalyst was filtered off through Celite and the latter was washed with water and methanol. The combined filtrates were evaporated to dryness and the residue was chromatographed on a silica gel column (60×5 cm) using 8%–10%–20% (10% conc. ammonium hydroxide in methanol)-dichloromethane as the eluant to give 1-methylisonipecotamide (7.15 g, 64%): FABMS: m/z 143.1 (MH+); HRFABMS: m/z 143.1184 (MH+). Calcd. for C7H15N2O: m/z 143.1184; δH (d6-DMSO) 1.50/1.57 (4H, m, CH2), 1.76/1.94 (4H, m, CH2), 2.10 (3H, s, —NCH3), 2.72 (1H, m, CH) and 6.68/7.18 ppm (2H, m, CONH2); δC (d6-DMSO) CH3: 41.2; CH2: 28.5, 28.5, 54.9, 54.9; CH: 46.2; C: 176.7.

reactant | Isonipecotamide | 78.0 mmoles, 10 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | formaldehyde | 93.6 mmoles, 7.6 mL, 2.81 g | C=O | CH2O
solvent | water | 100 mL | O | H2O
catalyst | Pd—C | [Pd] | Pd
product | 1-methylisonipecotamide | 7.15 g, 64% | CN1CCC(C(=O)N)CC1 | C7H14N2O
